US07612114B2
Pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
To a solution of pivalic acid 6-{2-[(4-acetoxy-3-fluorobenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (1.1 g) in methanol (18 ml) were sequentially added water (2 ml) and potassium carbonate (321 mg), and the solution was stirred for 1 hour at room temperature. Water was added thereto, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (637 mg).

reactant | pivalic acid 6-{2-[(4-acetoxy-3-fluorobenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 1.1 g | C(C)(=O)OC1=C(C=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1)F | C34H38FNO6
reactant | water | 2 ml | O | H2O
reactant | potassium carbonate | 321 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 18 ml | CO | CH4O
product | Pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 637 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
